### PR TITLE
[Merged by Bors] - feat(Polynomial): When the trailing degree is zero

### PR DESCRIPTION
**Pull request by YaelDillies**
Characterise when `trailingDegree p = 0` and `natTrailingDegree p = 0`. Also fix a few names.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/Degree/TrailingDegree.lean [hunk 1]
```diff
@@ -153,26 +153,60 @@ theorem natTrailingDegree_eq_of_trailingDegree_eq [Semiring S] {q : S[X]}
...
   rw [← WithTop.coe_le_coe, this, ← trailingDegree_eq_natTrailingDegree]
-  · exact le_trailingDegree_of_ne_zero h
+  · exact trailingDegree_le_of_ne_zero h
   · intro h
     subst h
     exact h rfl
 #align polynomial.nat_trailing_degree_le_of_ne_zero Polynomial.natTrailingDegree_le_of_ne_zero
 
-theorem trailingDegree_le_trailingDegree (h : coeff q (natTrailingDegree p) ≠ 0) :
+lemma constantCoeff_natTrailingDegree_eq_zero : coeff p p.natTrailingDegree = 0 ↔ p = 0 := by
```
Comment (fpvandoorn) [inline Mathlib/Data/Polynomial/Degree/TrailingDegree.lean:169]: `@[simp]`?

**Review by fpvandoorn — COMMENTED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
